US08541457B2
Synthesis of 2-[3-(4-Fluorophenyl)ureido]-4-methylthiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 4, making variations only as required to use 4-fluorophenyl isocyanate in place of phenyl isocyanate to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 83% yield; m.p.>300° C.; 1H NMR (DMSO-d6, 300 MHz) δ 9.03 (s, 1H), 8.47 (t, J=6.0 Hz, 1H), 7.49-7.05 (m, 10H), 4.35 (d, J=5.7 Hz, 2H), 2.43 (s, 3H); 13C NMR (DMSO-d6, 75 MHz) δ 162.2, 140.2, 128.7, 127.7, 127.2, 121.1, 121.0, 120.5, 116.1, 115.9, 115.8, 43.0, 39.1; MS (ES+) m/z 385.1 (M+1).

reactant | 4-fluorophenyl isocyanate | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 2-[3-(4-Fluorophenyl)ureido]-4-methylthiazole-5-carboxylic Acid Benzylamide | 83% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)NC1=CC=C(C=C1)F)C | C19H17FN4O2S
